### PR TITLE
[Merged by Bors] - chore(*): Fintype -> Finite, drop Decidable

### PR DESCRIPTION
**Pull request by urkud**
Also, in some cases drop unneeded `Fintype` arguments.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/Matrix/Basic.lean [hunk 1]
```diff
@@ -458,15 +458,14 @@ theorem diagonal_add [AddZeroClass α] (d₁ d₂ : n → α) :
...
     diagonal (r • d) = r • diagonal d := by
   ext i j
-  by_cases h : i = j <;>
-  simp [h]
+  by_cases h : i = j <;> simp [h]
 #align matrix.diagonal_smul Matrix.diagonal_smul
 
 @[simp]
-theorem diagonal_neg [DecidableEq n] [NegZeroClass α] (d : n → α) :
+theorem diagonal_neg [NegZeroClass α] (d : n → α) :
```
Comment (urkud) [inline Mathlib/Data/Matrix/Basic.lean:468]: This `[DecidableEq n]` duplicated an instance in `variable`.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
